US05753634
III. Synthesis of Octahydro-6,6-diphosphono-1-(2-mercaptoethyl)-1-methyl-1-pyrindinium chloride
Octahydro-6,6-diphosphono-1-(2-acetylthioethyl)-1-methyl-1-pyrindinium bromide (0.05 mmol) is heated at reflux in 6N HCl (15 ml) under an atmosphere of nitrogen. The reaction mixture is cooled, treated with charcoal and filtered. The resulting filtrate is concentrated under reduced pressure. The resulting solid residue can be recrystallized from water and ethanol to provide the desired product.

reactant | Octahydro-6,6-diphosphono-1-(2-acetylthioethyl)-1-methyl-1-pyrindinium bromide | 0.05 mmol | [Br-].P(=O)(O)(O)C1(CC2CCC[N+](C2C1)(C)CCSC(C)=O)P(=O)(O)O
reactant | charcoal | C | CH4
reactant | HCl | 6N, 15 ml | Cl | ClH
product | Octahydro-6,6-diphosphono-1-(2-mercaptoethyl)-1-methyl-1-pyrindinium chloride | [Cl-].P(=O)(O)(O)C1(CC2CCC[N+](C2C1)(C)CCS)P(=O)(O)O | InChI=1S/C11H23NO6P2S.ClH/c1-12(5-6-21)4-2-3-9-7-11(8-10(9)12,19(13,14)15)20(16,17)18;/h9-10H,2-8H2,1H3,(H4-,13,14,15,16,17,18,21);1H
